** Name: SimpleOpAmp117

.MACRO SimpleOpAmp117 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=13e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=26e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=7e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=5e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=92e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=32e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=12e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=80e-6
mNormalTransistorNmos10 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=505e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=482e-6
mNormalTransistorNmos12 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=32e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=8e-6 W=258e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=8e-6 W=258e-6
mNormalTransistorPmos15 out outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=5e-6 W=47e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=175e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=92e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp117

** Expected Performance Values: 
** Gain: 93 dB
** Power consumption: 1.95801 mW
** Area: 9075 (mu_m)^2
** Transit frequency: 13.0041 MHz
** Transit frequency with error factor: 13.0039 MHz
** Slew rate: 31.9853 V/mu_s
** Phase margin: 88.2356°
** CMRR: 137 dB
** VoutMax: 4.20001 V
** VoutMin: 0.600001 V
** VcmMax: 3.90001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 8.00601 muA
** NormalTransistorNmos: 53.0801 muA
** NormalTransistorPmos: -197.761 muA
** NormalTransistorNmos: 61.4241 muA
** NormalTransistorNmos: 61.4241 muA
** DiodeTransistorPmos: -61.4249 muA
** NormalTransistorPmos: -61.4249 muA
** NormalTransistorPmos: -61.4249 muA
** NormalTransistorNmos: 320.613 muA
** NormalTransistorNmos: 320.612 muA
** NormalTransistorNmos: 61.4251 muA
** NormalTransistorNmos: 61.4251 muA
** DiodeTransistorNmos: 197.762 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -8.00699 muA
** DiodeTransistorPmos: -53.0809 muA


** Expected Voltages: 
** ibias: 1.12801  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 3.81701  V
** outVoltageBiasXXpXX1: 2.70401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.573001  V
** innerTransistorStack2Load2: 3.87001  V
** out1: 4.24201  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END