** Name: SimpleOpAmp48

.MACRO SimpleOpAmp48 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=43e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=38e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=6e-6 W=33e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=7e-6 W=469e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=2e-6 W=469e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=57e-6
mNormalTransistorNmos7 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=57e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=81e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=81e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=6e-6 W=268e-6
mNormalTransistorPmos11 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=2e-6 W=469e-6
mNormalTransistorPmos12 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=7e-6 W=469e-6
mNormalTransistorPmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=157e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=157e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=6e-6 W=421e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp48

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 2.24401 mW
** Area: 13445 (mu_m)^2
** Transit frequency: 13.4181 MHz
** Transit frequency with error factor: 13.4185 MHz
** Slew rate: 11.7737 V/mu_s
** Phase margin: 88.8085°
** CMRR: 147 dB
** VoutMax: 3.97001 V
** VoutMin: 0.710001 V
** VcmMax: 3.96001 V
** VcmMin: -0.399999 V


** Expected Currents: 
** NormalTransistorPmos: -81.8999 muA
** NormalTransistorNmos: 108.565 muA
** NormalTransistorNmos: 173.411 muA
** NormalTransistorNmos: 108.565 muA
** NormalTransistorNmos: 173.411 muA
** DiodeTransistorPmos: -108.564 muA
** NormalTransistorPmos: -108.565 muA
** NormalTransistorPmos: -108.564 muA
** DiodeTransistorPmos: -108.565 muA
** NormalTransistorPmos: -129.693 muA
** NormalTransistorPmos: -64.8469 muA
** NormalTransistorPmos: -64.8469 muA
** DiodeTransistorNmos: 81.8991 muA
** DiodeTransistorNmos: 81.8981 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.11601  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.11901  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.564001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.13401  V
** innerTransistorStack1Load2: 4.13401  V
** out1: 3.40901  V
** sourceGCC1: 0.564001  V
** sourceGCC2: 0.564001  V
** sourceTransconductance: 3.21601  V


.END