** Name: SimpleOpAmp90

.MACRO SimpleOpAmp90 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=4e-6 W=276e-6
mDiodeTransistorNmos2 FirstStageYinnerOutputLoad2 FirstStageYinnerOutputLoad2 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=5e-6 W=49e-6
mDiodeTransistorNmos3 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=2e-6 W=49e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=23e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos4 L=4e-6 W=4e-6
mNormalTransistorNmos6 out FirstStageYinnerOutputLoad2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=5e-6 W=49e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=4e-6 W=7e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=2e-6 W=49e-6
mNormalTransistorPmos9 out outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=4e-6 W=113e-6
mNormalTransistorPmos10 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=559e-6
mNormalTransistorPmos11 sourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=321e-6
mNormalTransistorPmos12 FirstStageYinnerOutputLoad2 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=4e-6 W=113e-6
mNormalTransistorPmos13 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=146e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=146e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp90

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 2.02101 mW
** Area: 3933 (mu_m)^2
** Transit frequency: 13.2941 MHz
** Transit frequency with error factor: 13.2944 MHz
** Slew rate: 14.0372 V/mu_s
** Phase margin: 65.8902°
** CMRR: 142 dB
** VoutMax: 4.32001 V
** VoutMin: 0.870001 V
** VcmMax: 4.12001 V
** VcmMin: 1.08001 V


** Expected Currents: 
** NormalTransistorNmos: 6.07701 muA
** NormalTransistorPmos: -243.126 muA
** NormalTransistorPmos: -67.4659 muA
** NormalTransistorPmos: -67.4659 muA
** DiodeTransistorNmos: 67.4651 muA
** NormalTransistorNmos: 67.4641 muA
** NormalTransistorNmos: 67.4651 muA
** DiodeTransistorNmos: 67.4641 muA
** NormalTransistorPmos: -141.006 muA
** NormalTransistorPmos: -67.4649 muA
** NormalTransistorPmos: -67.4649 muA
** DiodeTransistorNmos: 243.127 muA
** DiodeTransistorPmos: -6.07799 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.28001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX0: 0.608001  V
** outVoltageBiasXXpXX1: 2.07901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.22401  V
** innerOutputLoad2: 1.27401  V
** innerTransistorStack1Load2: 0.583001  V
** innerTransistorStack2Load2: 0.585001  V
** sourceGCC1: 3.01001  V
** sourceGCC2: 3.00701  V


.END