** Name: SimpleOpAmp94

.MACRO SimpleOpAmp94 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=31e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=4e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=9e-6 W=10e-6
mDiodeTransistorPmos5 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=4e-6 W=63e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=35e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=61e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=38e-6
mNormalTransistorNmos9 sourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=481e-6
mNormalTransistorNmos10 FirstStageYinnerSourceLoad2 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=61e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=4e-6 W=245e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=4e-6 W=245e-6
mNormalTransistorPmos13 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=3e-6 W=140e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=9e-6 W=63e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=4e-6 W=63e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp94

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 2.77201 mW
** Area: 4834 (mu_m)^2
** Transit frequency: 24.6201 MHz
** Transit frequency with error factor: 24.6197 MHz
** Slew rate: 46.9257 V/mu_s
** Phase margin: 87.6626°
** CMRR: 133 dB
** VoutMax: 3.98001 V
** VoutMin: 0.450001 V
** VcmMax: 3.67001 V
** VcmMin: 0.710001 V


** Expected Currents: 
** NormalTransistorNmos: 37.8231 muA
** NormalTransistorNmos: 34.8251 muA
** NormalTransistorPmos: -238.531 muA
** NormalTransistorNmos: 116.659 muA
** NormalTransistorNmos: 116.659 muA
** DiodeTransistorPmos: -116.658 muA
** NormalTransistorPmos: -116.658 muA
** NormalTransistorPmos: -116.658 muA
** NormalTransistorNmos: 471.851 muA
** NormalTransistorNmos: 116.66 muA
** NormalTransistorNmos: 116.66 muA
** DiodeTransistorNmos: 238.532 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -37.8239 muA
** DiodeTransistorPmos: -34.8259 muA


** Expected Voltages: 
** ibias: 0.558001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.22101  V
** out: 2.5  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 3.04901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerSourceLoad2: 3.78901  V
** innerTransistorStack2Load2: 4.15801  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END